US08975400B2
tert-butyl 7-((5-cyano-6-(3-(trifluoromethyl)phenoxy)pyridin-3-yl)methoxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate
The title compound was prepared by a procedure similar to that described for E1 starting from NaH, 5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo-[1,2-c]pyrimidine-1(5H)-carboxylate.

reactant | NaH | [H-].[Na+]
reactant | 5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile | OCC=1C=NC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C14H9F3N2O2
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo-[1,2-c]pyrimidine-1(5H)-carboxylate | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
product | tert-butyl 7-((5-cyano-6-(3-(trifluoromethyl)phenoxy)pyridin-3-yl)methoxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | C(#N)C=1C=C(C=NC1OC1=CC(=CC=C1)C(F)(F)F)COC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C25H22F3N5O5
